US06083968
To a solution of 2-(2,4-difluorophenyl)-2-[(ethylthio)(difluoro)methyl]oxirane (4.3 g, 0.016 mol) in DMSO (50 ml), 1,2,4-triazole (2.98 g, 0.043 mol) and potassium carbonate (5.96 g, 0.043 mol) were added, followed by stirring at 60° C. for 2 hours. After the completion of the reaction, water was added to the reaction mixture. The resulting mixture was extracted with ethyl acetate. The extract was washed successively with water and saturated saline and dried over magnesium sulfate. The solvent was then distilled off under reduced pressure. The residue so obtained was crystallized from isopropyl ether--ethyl acetate, whereby 2-(2,4-difluorophenyl)-1-(ethylthio)-1,1-difluoro-3-(1H-1,2,4-triazol-1-yl)-2-propanol (1.5 g, yield: 25%) was obtained as colorless crystals.

reactant | 2-(2,4-difluorophenyl)-2-[(ethylthio)(difluoro)methyl]oxirane | 0.016 mol, 4.3 g | FC1=C(C=CC(=C1)F)C1(OC1)C(F)(F)SCC | C11H10F4OS
reactant | 1,2,4-triazole | 0.043 mol, 2.98 g | N1N=CN=C1 | C2H3N3
reactant | potassium carbonate | 0.043 mol, 5.96 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMSO | 50 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2,4-difluorophenyl)-1-(ethylthio)-1,1-difluoro-3-(1H-1,2,4-triazol-1-yl)-2-propanol | 1.5 g, yield: 25% | FC1=C(C=CC(=C1)F)C(C(F)(F)SCC)(CN1N=CN=C1)O | C13H13F4N3OS
